US04727192
Preparation of 2-[2-(β-hydroxyethyl)amino-3,5-dinitrophenyl]ethanol
0.29 Mole (60.9 g) of 2,3-dihydro-5,7-dinitrobenzofuran is added in small portions at room temperature to 122 ml of 2-aminoethanol. After the addition is complete, the reaction medium is brought for 15 minutes to 95° C. 500 ml of water are added; after the mixture is cooled, the expected product is drained, and this, after being made into a paste in water and recrystallized from 75 ml of 96° strength ethanol, melts at 115° C.

reactant | 2,3-dihydro-5,7-dinitrobenzofuran | 0.29 Mole, 60.9 g | [N+](=O)([O-])C=1C=C(C2=C(CCO2)C1)[N+](=O)[O-] | C8H6N2O5
reactant | 2-aminoethanol | NCCO | C2H7NO
solvent | water | 500 ml | O | H2O
product | 2-[2-(β-hydroxyethyl)amino-3,5-dinitrophenyl]ethanol | OCCNC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])CCO | C10H13N3O6
